Name:  ___                   Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
Morphine / Pravachol / Sulfa (Sulfonamide Antibiotics) / Zestril
 
Attending: ___
 
Chief Complaint:
Dyspnea
 
Major Surgical or Invasive Procedure:
None

 
History of Present Illness:
Ms. ___ is a ___, PMH COPD on
3L O2, afib on apixaban, CAD s/p CABG, HFpEF (EF ___
55-60%), IDDM, recently on hospice, presenting with worsening
dyspnea. 

She had been recently hospitalized in ___ for leg weakness,
hypokalemia, and ___ thought to be due to overdiuresis. Her
diuretics were stopped at discharge and have been gradually
uptitrated with her outpatient cardiologist, most recently at
torsemide 40mg. 

She also endorsed several days of dysuria and urinary urgency.
She also notes she had loose stools last week but have resolved
with loperamide. 

She denies other infectious symptoms, fever, chills, nausea,
vomiting, chest pain, vision changes (blind in left eye at
baseline), headaches.

In the ED...

- Initial vitals: 98.3  62  129/73  18 NC 
 
- Labs/studies notable for:
- Cr 1.3 (baseline 1.0)
- WBC 11.5
- UA with > 182 ___

- Micro: ___ BCx with GPCs, one bottle

- Patient was given:  
___ 22:16 IV Furosemide 80 mg 
___ 01:37 PO/NG Gabapentin 300 mg 
___ 01:37 PO/NG Apixaban 5 mg  
___ 01:37 PO/NG HYDROmorphone (Dilaudid) 4 mg   
___ 02:30 IV CefTRIAXone 1 gm   
___ 06:09 TP Sarna Lotion 1 Appl 
___ 06:13 IH Albuterol 0.083% Neb Soln 1 NEB   
___ 06:27 TP Hydrocortisone Cream 0.5% 1 Appl  
___ 07:51 PO/NG Gabapentin 300 mg  
___ 07:51 PO/NG Apixaban 5 mg 
___ 07:51 PO Loratadine 10 mg   
___ 07:51 PO/NG Docusate Sodium 100 mg   
___ 07:51 PO Metoprolol Succinate XL 25 mg   
___ 09:01 PO Omeprazole 20 mg  
___ 10:07 PO Potassium Chloride 40 mEq  
___ 10:07 IV Furosemide 80 mg 
___ 10:12 IV Magnesium Sulfate   
___ 11:06 TP Hydrocortisone Cream 0.5% 1 
___ 11:12 IV Magnesium Sulfate 2 gm 
___ 11:47 IH Albuterol 0.083% Neb Soln 1 NEB 
___ 11:51 SC Insulin 4 Units 
___ 13:41 PO/NG Acetaminophen 325 mg  
___ 15:15 IV Vancomycin   
___ 15:34 PO/NG HYDROmorphone (Dilaudid) 4 mg   
___ 16:04 PO/NG Acetaminophen 650 mg 
___ 16:06 IV Vancomycin 750 mg   
___ 18:04 SC Insulin 25 UNIT 
___ 18:04 SC Insulin 6 Units 
___ 18:42 IH Albuterol 0.083% Neb Soln 1 NEB  

- Vitals on transfer: 98  68  ___  95% 3L NC 
 
- ED course
- Admission within ___ per patient
- 80 IV Lasix
- Foley for urinary retention + within ___
- UA suggestive of UTI - started on CTX 1g q24h
- BCx with GPCs, started vancomycin

On the floor, patient reports story as above. Says her breathing
has improved significantly since starting Lasix in the ED. No
chest pain. Does report some dysuria still. No diarrhea 
recently.

REVIEW OF SYSTEMS: Negative except as above in HPI.

 
Past Medical History:
pHTN on 3L O2
CAD s/p CABG and multiple ___
HFpEF (LVEF = 55% in ___
Hypertension
T2DM
Hyperlipidemia
Peripheral Neuropathy  
h/o herniated disk 
Macular degeneration of L eye 
 
Social History:
___
Family History:
There is no family history of premature coronary artery disease 
or sudden death.

 
Physical Exam:
ADMISSION PHYSICAL EXAM
=======================
VS: 98.6  126/73  78  20  90 2L 
GENERAL: NAD
HEENT: AT/NC, anicteric sclera, MMM
CV: Irregulary irregular, ___ systolic murmur at RUSB
PULM: CTAB except for rales at bases on anterior auscultation 
GI: Abdomen soft, nondistended, nontender 
EXTREMITIES: 2+ pitting edema to calves bilaterally
NEURO: Alert, moving all 4 extremities with purpose, face
symmetric
DERM: warm and well perfused, no excoriations or lesions, no
rashes

DISCHARGE PHYSICAL EXAM
=======================
24 HR Data (last updated ___ @ 808)
    Temp: 97.5 (Tm 98.2), BP: 101/59 (101-114/58-69), HR: 68
(54-68), RR: 20 (___), O2 sat: 91% (91-96), O2 delivery: 2L,
Wt: 163.14 lb/74.0 kg  

Fluid Balance (last updated ___ @ 1044) 
  Last 8 hours  Total cumulative -494ml
    IN: Total 356ml, PO Amt 356ml
    OUT:  Total 850ml, Urine Amt 850ml
  Last 24 hours  Total cumulative -1434ml
    IN: Total 1016ml, PO Amt 1016ml
    OUT:  Total 2450ml, Urine Amt 2450ml  

GENERAL: Lying in bed, looks comfortable
HEENT: AT/NC, anicteric sclera, MMM, left eye with stye, 
erythema
improved
CV: Irregulary irregular, ___ systolic murmur at RUSB
PULM: CTAB except for rales at bases on anterior auscultation 
GI: Abdomen soft, nondistended, nontender 
EXTREMITIES: 1+ pitting edema to mid shin bilaterally
NEURO: No focal deficits. 
DERM: warm and well perfused, no excoriations or lesions, no
rashes
 
Pertinent Results:
ADMISSION LABS
===============
___ 07:25PM BLOOD WBC-11.5* RBC-4.03 Hgb-11.7 Hct-37.9 
MCV-94 MCH-29.0 MCHC-30.9* RDW-15.3 RDWSD-52.3* Plt ___
___ 07:25PM BLOOD Neuts-76.4* Lymphs-15.2* Monos-5.7 
Eos-1.6 Baso-0.6 Im ___ AbsNeut-8.78* AbsLymp-1.75 
AbsMono-0.66 AbsEos-0.18 AbsBaso-0.07
___ 07:25PM BLOOD Glucose-162* UreaN-25* Creat-1.3* Na-142 
K-4.1 Cl-98 HCO3-27 AnGap-17
___ 10:05PM URINE RBC-23* WBC->182* Bacteri-FEW* Yeast-NONE 
Epi-1
___ 10:05PM URINE Blood-SM* Nitrite-NEG Protein-30* 
Glucose-NEG Ketone-NEG Bilirub-NEG Urobiln-NEG pH-6.5 Leuks-LG*
___ 10:05PM URINE Color-Straw Appear-Cloudy* Sp ___

INTERVAL LABS
=============
___ 07:42AM BLOOD Calcium-8.9 Phos-3.7 Mg-1.9
___ 10:15AM BLOOD %HbA1c-7.2* eAG-160*
___ 02:03AM BLOOD CK-MB-1 cTropnT-<0.01
___ 07:55AM BLOOD ALT-7 AST-13

DISCHARGE LABS
================
___ 08:10AM BLOOD WBC-9.2 RBC-3.94 Hgb-11.4 Hct-36.2 MCV-92 
MCH-28.9 MCHC-31.5* RDW-14.8 RDWSD-49.9* Plt ___
___ 08:10AM BLOOD Glucose-85 UreaN-39* Creat-1.1 Na-144 
K-4.0 Cl-97 HCO3-31 AnGap-16
___ 08:10AM BLOOD Calcium-9.6 Phos-4.0 Mg-2.0

MICRO
========
__________________________________________________________
___ 8:00 pm BLOOD CULTURE

                            **FINAL REPORT ___

   Blood Culture, Routine (Final ___: 
      STREPTOCOCCUS INFANTARIUS SSP. COLI (STREPTOCOCCUS BOVIS). 

         FINAL SENSITIVITIES. 

                              SENSITIVITIES: MIC expressed in 
MCG/ML
                      
_________________________________________________________
                             STREPTOCOCCUS INFANTARIUS SSP. COLI 
(STREPTOCOCCU
                             |   
CEFTRIAXONE-----------<=0.12 S
CLINDAMYCIN-----------<=0.25 S
ERYTHROMYCIN----------<=0.12 S
PENICILLIN G----------<=0.06 S
VANCOMYCIN------------   0.5 S

   Anaerobic Bottle Gram Stain (Final ___: 
      GRAM POSITIVE COCCI IN PAIRS AND CHAINS. 
      Reported to and read back by ___ (___) 
@14:51
      (___). 

   Aerobic Bottle Gram Stain (Final ___: 
      GRAM POSITIVE COCCI IN PAIRS AND CHAINS. 
__________________________________________________________
___ 1:55 am BLOOD CULTURE

                            **FINAL REPORT ___

   Blood Culture, Routine (Final ___:    NO GROWTH. 
__________________________________________________________
___ 10:05 pm URINE

                            **FINAL REPORT ___

   URINE CULTURE (Final ___: 
      AEROCOCCUS URINAE.    >100,000 CFU/mL. 

IMAGES/STUDIES
==============
CXR ___
FINDINGS: 
There is bibasilar atelectasis.  There is no pleural effusion or 
pneumothorax. No definite pulmonary edema.  There is mild 
cardiomegaly.  Median sternotomy wires are in stable position.  
Aortic arch calcifications are noted.  No acute osseous 
abnormality.
 
IMPRESSION: 
Cardiomegaly without superimposed acute cardiopulmonary process.
 
Brief Hospital Course:
PATIENT SUMMARY
=================
Ms. ___ is a ___, PMH COPD on 3L O2, afib on apixaban, CAD 
s/p CABG, HFpEF (EF ___ 55-60%), IDDM, recently on hospice, 
presenting with worsening dyspnea. 

ACTIVE ISSUES
=============
# HFpEF (EF 55-60% on last TTE (___)
# Pulmonary HTN on 3L O2
Initial standing weight on admission was 171.5 lbs, her BNP 
above baseline, and exam was concerning for volume overload. 
Found to also have UTI, which in combination with under-dosing 
of torsemide at home likely triggered her acute decompensation. 
She was diuresed with BID IV lasix, and her metoprolol was 
continued. She diuresed over 8 L during the admission, with 
improvement of her oxygen requirement to 2L. Discharge weight 
was 163.14 and discharge Creatinine was 1.1.

# UTI: 
Patient presented with dysuria and frequency along with positive 
UA. Urine culture grew Aerococcus urinae, which is a rare cause 
of UTI, but can cause bacteraemia/septicaemia and/or 
endocarditis. Per micro lab, sensitivities on aerococcus urinae 
are not routinely performed because they are a sendout lab. 
Treatment with beta-lactam antibiotics is recommended, as A 
urinae is frequently resistant to sulfonamides and 
fluoroquinolones ___: ___. She was initially treated 
with vancomycin and ceftriaxone, as her blood cultures were 
growing GPCs. However this was narrowed to ceftriaxone when the 
blood stream resulted with S bovis (see below), as per 
infectious disease, both A urinae and S bovis are sensitive to 
ceftriaxone. She completed seven day course of abx, ___ - ___.

# Strep bovis Bacteremia: 
Patient with strep in ___ blood cultures, one bottle, no clear 
source for strep bacteremia as urine growing Aerococcus urinae. 
Speciated as strep bovis, which is sensitive to ceftriaxone. No 
clear recommendations on duration of therapy, so treated for 7 
days, last day ___. 

# Left eye hordeolum 
# Bacterial conjunctivitis
History of macular degeneration in left eye (legally blind) and 
history of ocular HSV per patient. Presented with pain due to 
stye in her left eye, then with itching and redness, no pain 
with eye movement. Likely bacterial infection, completed 
erythromycin for 5 day course with resolution of symptoms. 

CHRONIC ISSUES
==============
# A-fib
Continud dhome Metoprolol Succinate XL 12.5 mg PO DAILY and home 
Apixaban 2.5 mg PO BID 

# T2DM
She was maintained on her ISS, and her home glargine 25U QUH. 
Her home SITagliptin 100 mg oral QHS was held. 

# COPD
Replaced Symbacort with Advair (formulary) 

# HLD
Continued Atorvastatin 80 mg PO QPM 

# Chronic pain
Continued Gabapentin 300 mg PO BID, held 
HYDROcodone-Acetaminophen (5mg-325mg) 1 TAB PO Q6H:PRN Pain, and 
replaced with separate oxycodone and acetaminophen (formulary). 

# GERD
Continued Omeprazole 20 mg PO DAILY 

TRANSITIONAL ISSUES
===================
---Discharge weight 74.0 kg (163.14 lbs) 
---Discharge creatinine 1.1
---Discharge potassium 4.0
[] Patient had bacteremia with strep bovis, which is associated 
with colorectal cancer, consider colonoscopy as outpatient if 
within goals of care.
[] Patient's oxygen requirement decreased with diuresis 
(requiring 2L on discharge). Consider downtitrating as an 
outpatient to avoid over-diuresis
[] Patient's dose of torsemide was increased on discharge. 
Recommend follow-up BMP on discharge to ensure stable Creatinine 
and potassium. She was also discharged with potassium 
supplement.

This patient was prescribed, or continued on, an opioid pain 
medication at the time of discharge (please see the attached 
medication list for details). As part of our safe opioid 
prescribing process, all patients are provided with an opioid 
risks and treatment resource education sheet and encouraged to 
discuss this therapy with their outpatient providers to 
determine if opioid pain medication is still indicated.
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Albuterol 0.083% Neb Soln 1 NEB IH Q6H:PRN shortness of 
breath 
2. Atorvastatin 80 mg PO QPM 
3. Bisacodyl 10 mg PO DAILY:PRN Constipation - First Line 
4. Docusate Sodium 100 mg PO BID:PRN Constipation - First Line 
5. Gabapentin 300 mg PO BID 
6. HYDROcodone-Acetaminophen (5mg-325mg) 1 TAB PO Q6H:PRN Pain - 
Moderate 
7. Hydrocortisone (Rectal) 2.5% Cream ___ID 
8. Lidocaine 5% Patch 1 PTCH TD QAM foot pain 
9. Metoprolol Succinate XL 12.5 mg PO DAILY 
10. Milk of Magnesia 30 mL PO DAILY:PRN Constipation - Second 
Line 
11. Omeprazole 20 mg PO DAILY 
12. Polyethylene Glycol 17 g PO DAILY 
13. Senna 8.6 mg PO BID:PRN Constipation - Second Line 
14. Artificial Tears 1 DROP BOTH EYES TID 
15. Dibucaine 1 % topical TID:PRN hemorrhoids 
16. Diff-Stat (Sacch boulardi-Bacill coag-FOS) 471 mg oral BID 
17. Lantus U-100 Insulin (insulin glargine) 25 units 
subcutaneous DAILY 
18. Loratadine 10 mg PO DAILY 
19. SITagliptin 100 mg oral QHS 
20. Symbicort (budesonide-formoterol) 160-4.5 mcg/actuation 
inhalation BID 
21. Apixaban 2.5 mg PO BID 
22. Torsemide 40 mg PO DAILY 

 
Discharge Medications:
1.  Potassium Chloride 20 mEq PO DAILY 
RX *potassium chloride 20 mEq 1 tablet(s) by mouth daily Disp 
#*30 Tablet Refills:*0 
2.  Torsemide 100 mg PO DAILY 
RX *torsemide 100 mg 1 tablet(s) by mouth daily Disp #*30 Tablet 
Refills:*0 
3.  Albuterol 0.083% Neb Soln 1 NEB IH Q6H:PRN shortness of 
breath  
4.  Apixaban 2.5 mg PO BID  
5.  Artificial Tears 1 DROP BOTH EYES TID  
6.  Atorvastatin 80 mg PO QPM  
7.  Bisacodyl 10 mg PO DAILY:PRN Constipation - First Line  
8.  Dibucaine 1 % topical TID:PRN hemorrhoids  
9.  Diff-Stat (Sacch boulardi-Bacill coag-FOS) 471 mg oral BID  
10.  Docusate Sodium 100 mg PO BID:PRN Constipation - First Line 
 
11.  Gabapentin 300 mg PO BID  
12.  HYDROcodone-Acetaminophen (5mg-325mg) 1 TAB PO Q6H:PRN Pain 
- Moderate  
13.  Hydrocortisone (Rectal) 2.5% Cream ___ID  
14.  Lantus U-100 Insulin (insulin glargine) 25 units 
subcutaneous DAILY  
15.  Lidocaine 5% Patch 1 PTCH TD QAM foot pain  
16.  Loratadine 10 mg PO DAILY  
17.  Metoprolol Succinate XL 12.5 mg PO DAILY  
18.  Milk of Magnesia 30 mL PO DAILY:PRN Constipation - Second 
Line  
19.  Omeprazole 20 mg PO DAILY  
20.  Polyethylene Glycol 17 g PO DAILY  
21.  Senna 8.6 mg PO BID:PRN Constipation - Second Line  
22.  SITagliptin 100 mg oral QHS  
23.  Symbicort (budesonide-formoterol) 160-4.5 mcg/actuation 
inhalation BID  
24.Outpatient Lab Work
Please obtain BMP before follow up appointment with PCP. 
RCD 10 code ___
Please fax results to ___, Attn: Dr. ___
___ 

 
Discharge Disposition:
Home With Service
 
Facility:
___
 
Discharge Diagnosis:
PRIMARY DIAGNOSIS
==================
Acute on chronic diastolic heart failure with preserved ejection 
fraction

SECONDARY DIAGNOSES
=====================
Urinary tract infection
Blood stream infection

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - requires assistance or aid (walker 
or cane).

 
Discharge Instructions:
Dear Ms ___,  
It was a privilege caring for you at ___.  

WHY WAS I IN THE HOSPITAL?  
- You were having trouble breathing. 

WHAT HAPPENED TO ME IN THE HOSPITAL?  
- You were found to have extra fluid around your lungs that was 
making it difficult for you to breath. This is because of your 
heart failure. You received medication through your IV 
(diuretics called furosemide, or "lasix") to help you urinate 
out the extra fluid, and your breathing improved.
- You had an infection in your bladder (UTI), and you were 
treated with antibiotics to kill the bacteria. 
- You had an infection in your blood stream, and you were 
treated with antibiotics to kill the bacteria. 
- You had a painful stye and an infection in your eye 
("bacterial conjunctivitis"). You were given antibiotics in an 
ointment and this improved. 

WHAT SHOULD I DO AFTER I LEAVE THE HOSPITAL?  
-Please continue to take all of your medications and follow-up 
with your appointments as listed below.
-Your dose of torsemide was increased during this 
hospitalization to 100 mg daily. Please ensure you are taking 
this dosage unless instructed otherwise by your doctors. 
-___ were started on potassium 20 mg to take daily. Please 
ensure you are taking this medication unless instructed 
otherwise by your doctors. 
-___ you get home on day of discharge, you still need to take a 
few of your medications. They are listed below:
--- Apixaban (eliquis) 2.5 mg
--- Atorvastatin 80 mg 
--- Gabapentin 300 mg
--- Insulin 25 units
-CHF plan: 
---Your weight on discharge was 163.14 lbs. 
---Please weigh yourself every day in the morning after you 
urinate and before you get dressed and eat breakfast, and write 
these weights down every day. 
---If your weight goes up by more than 3 lbs in ___ hours, 
then call your PCP ___ ___. Your diuretic medication may 
need to be increased. 

We wish you the best!  

Sincerely,  
Your ___ Team

 
Followup Instructions:
___